US05057537
69 g (0.26 mol) of methyl 1-hydroxy-2-naphthylglyoxylate and 44 g (0.53 mol) of O-methylhydroxylamine hydrochloride in 800 ml of methanol are stirred under reflux for 6 h. The mixture is then concentrated; the residue is taken up in ethyl acetate, and the solution is washed with H2O, dried over sodium sulfate and concentrated again. 52 g (0.20 mol) of methyl 1-hydroxy-2-naphthylglyoxylate O-methyloxime (77% yield) are obtained.

reactant | methyl 1-hydroxy-2-naphthylglyoxylate | 0.26 mol, 69 g | OC1=C(C=CC2=CC=CC=C12)C(C(=O)OC)=O | C13H10O4
reactant | O-methylhydroxylamine hydrochloride | 0.53 mol, 44 g | Cl.CON
solvent | methanol | 800 ml | CO | CH4O
product | methyl 1-hydroxy-2-naphthylglyoxylate O-methyloxime | 0.20 mol, 52 g, 77% yield | CON=C(C(=O)OC)C1=C(C2=CC=CC=C2C=C1)O | C14H13NO4
